US06552049B2
2,3,9,10-Tetrahydro-8H-[1,4]dioxino[2,3-f]chromen-2-ylmethyl 4-methylbenzenesulfonate
A solution of 2.0 g (4.1 mmole) of [(2R)-7-(benzyloxy)-8-(3-hydroxypropyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate in 100 mL of methanol was added to a slurry of 0.30 g of 10% palladium on carbon in 30 mL of methanol in 500 mL Parr hydrogenation bottle. The mixture was treated with 50 psi of hydrogen on a Parr shaker for 15 hours. The catalyst was then removed by filtration through celite and the filtrate concentrated in vacuum to 1.6 g of a colorless oil. The oil was dissolved in 100 mL of benzene, 2.1 g (8.0 mmole) of triphenylphosphine and 1.6 g (8.0 mmole) of diisopropylazodicarboxylate added and the mixture stirred at room temperature for 5 days. The solvent was then removed in vacuum and the residue column chromatographed on silica gel with methylene chloride as eluant to give 1.2 g of the (R)-enantiomer of the title compound as a pale yellow oil. 1H-NMR (CDCl3): doublet 7.8 δ (2H); doublet 7.35 δ (2H); doublet 6.6 δ (1H); doublet 6.35 δ (1H); multiplet 4.4 δ (1H); multiplet 4.2 δ (3H); triplet 4.1 δ (2H); doublet of doublets 4.0 δ (1H); multiplet 2.55 δ (2H); singlet 2.45 δ (3H); multiplet 1.9 δ (2H).

reactant | [(2R)-7-(benzyloxy)-8-(3-hydroxypropyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 4.1 mmole, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)OCC2=CC=CC=C2)CCCO | C26H28O7S
reactant | hydrogen | [H][H] | H2
reactant | triphenylphosphine | 8.0 mmole, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 8.0 mmole, 1.6 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 0.30 g | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 2,3,9,10-Tetrahydro-8H-[1,4]dioxino[2,3-f]chromen-2-ylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC=2C(=C3CCCOC3=CC2)O1 | C19H20O6S
